US04122183
2-(N-Butylacetamido)-4-methyloxazole
The procedure of Example 17 was followed using 15.0 g. (0.0974 m) of 2-butylamino-4-methyl oxazole and 25 c.c. of acetic anhydride. B.p. = 58°-60° C/0.1 mm. wt. = 14.4 g. yield = 75.4%.

reactant | 2-butylamino-4-methyl oxazole | C(CCC)NC=1OC=C(N1)C | C8H14N2O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(N-Butylacetamido)-4-methyloxazole | yield = 75.4% | C(CCC)N(C(C)=O)C=1OC=C(N1)C | C10H16N2O2
